*** SPICE deck for cell FA_2x_Carry{sch} from library Demo
*** Created on Wed Oct 23, 2024 22:59:06
*** Last revised on Thu Oct 24, 2024 17:40:40
*** Written on Thu Oct 24, 2024 17:41:01 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: FA_2x_Carry{sch}
Mnmos@1 _C_out C_in net@27 gnd nmos L=0.4U W=1.6U
Mnmos@2 _C_out C_in net@27 gnd nmos L=0.4U W=1.6U
Mnmos@4 net@27 A gnd gnd nmos L=0.4U W=1.6U
Mnmos@5 net@27 A gnd gnd nmos L=0.4U W=1.6U
Mnmos@7 net@27 B gnd gnd nmos L=0.4U W=1.6U
Mnmos@8 net@27 B gnd gnd nmos L=0.4U W=1.6U
Mnmos@9 _C_out A net@8 gnd nmos L=0.4U W=1.6U
Mnmos@10 net@8 B gnd gnd nmos L=0.4U W=1.6U
Mpmos@1 net@0 C_in _C_out vdd pmos L=0.4U W=3.2U
Mpmos@2 net@0 C_in _C_out vdd pmos L=0.4U W=3.2U
Mpmos@4 vdd A net@0 vdd pmos L=0.4U W=3.2U
Mpmos@5 vdd A net@0 vdd pmos L=0.4U W=3.2U
Mpmos@7 vdd B net@0 vdd pmos L=0.4U W=3.2U
Mpmos@8 vdd B net@0 vdd pmos L=0.4U W=3.2U
Mpmos@9 net@7 A _C_out vdd pmos L=0.4U W=3.2U
Mpmos@10 vdd B net@7 vdd pmos L=0.4U W=3.2U

* Spice Code nodes in cell cell 'FA_2x_Carry{sch}'
.include "D:\DIC\22nm_HP.pm"	
.include "D:\DIC\22nm_HP.pm"
.params vdd = 0.8
v1 vdd gnd DC {vdd}
v2 C_in gnd PWL(0 {vdd} 400p {vdd} 500p 0 0.9n 0 1n {vdd} 2.5n {vdd} )
v3 B gnd PWL(0 0 2.5n 0 )
v4 A gnd PWL(0 {vdd} 1.4n {vdd} 1.5n 0 1.9n 0 2n {vdd} 2.5n {vdd})
.meas tran tCoff
+trig v(C_in1) val={vdd/2} cross=1
+targ v(_S) val={vdd/2} cross=1
.meas tran tCon
+trig v(C_in1) val={vdd/2} cross=2
+targ v(_S) val={vdd/2} cross=2
.meas tran tAoff
+trig v(A1) val={vdd/2} cross=1
+targ v(_S) val={vdd/2} cross=3
.meas tran tAon
+trig v(A1) val={vdd/2} cross=2
+targ v(_S) val={vdd/2} cross=4
.trans 0 2.5n	
.END
